US06313341B1
(−)-methyl(11R, 15S, 5Z, 13E)-11-tert-butyldimethylsilyloxy-15-hydroxy-9-oxoprost-5,13-dien1-oate (518 mg, 1.08 mmol) and acetonitrile (10 ml) were placed into a Teflon container and cooled to 0° C., whereby 46% hydrofluoric acid (1.0 ml) was added and stirred for 2 h. The reaction mixture was poured into a saturated aqueous sodium carbonate cooled with ice and extracted with ethyl acetate (150 ml) two times. The combined organic layer was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to remove solvent. The residue was purified by silica gel column chromatography [ethyl acetate/hexane (2/1)] to give 345 mg (88% yield) of prostaglandin E2 methyl ester;

reactant | 11-tert-butyldimethylsilyloxy-15-hydroxy-9-oxoprost-5,13-dien1-oate | 1.08 mmol, 518 mg | [Si](C)(C)(C(C)(C)C)OC1CC([C@H](CC=CCCCC(=O)[O-])[C@H]1C=CC(CCCCC)O)=O
reactant | hydrofluoric acid | 1.0 ml | F | FH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | prostaglandin E2 methyl ester | 345 mg, 88% yield | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C/CCCC(=O)OC)O)O | C21H34O5
